* Id-Vg sweep Vds=0.8250V
* Model: 3D_gaa_Si | Corner: ff
.option gmin=1e-20 post=2 measdgt=8
.temp 27.0
.include 'build/spectre_compat/3D_gaa_Si_spectre_43e1c1d004a7.inc'
Mn1 d g s s nfet l=1.000e-07 nfin=1
* Bulk reference for bulkmod=0
* Bulk net tied to: s

Vs s 0 0
Vd d 0 0.825000
Vg g 0 0
.dc Vg 0 0.825000 0.004125
.print dc i(Vd)
.measure dc ion FIND i(Vd) WHEN v(g)=0.825000
.measure dc ioff FIND i(Vd) WHEN v(g)=0
.end
